Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y/o female with past medical history of asthma (controlled 
with albuterol prn), HTN, G3P1A1 (currently 6 weeks pregnant) 
who presents as a transfer from OSH ED with concerns for an 
asthma exacerbation. The patient was in her usual state of 
health until about 4 days ago when she developed laryngitis and 
a nonproductive cough. This was associated with chills, 
myalgias, and generalized weakness, along with a temperature to 
101.0 at home. for these symptoms she presented to an OSH. 

Peak flow reportedly was 130 at the OSH. She was treated for an 
asthma exacerbation with prednisone 60 mg, azithromycin 500 mg 
PO, and albuterol/ipratropium nebs. She was transferred to ___ 
ED for further management. On arrival, the patient was in no 
respiratory distress and was satting well on room air. She 
reported a persistent cough and dyspnea. She denied pleuritic 
chest pain and lower extremity swelling. There was no history of 
long travel, recent surgeries, h/o DVT/PE. She does have a 
history of spontanous abortion.  

In the ED, initial vitals were 97.4 102 149/80 22 97%RA. She was 
administered albuterol and ipratropium nebs x 2, prednisone 60 
mg x 2, azithromycin 500 mg x 2, and nifedipine 30 mg PO x 1. 
CXR, on dictation, showed no focal infiltrates. Peak flow on 
admission was 350, decreased to 270, then to 250 at the time of 
admission. Flu swab was obtained, and is pending. Per OB/GYN, 
albuterol, ipratropium, azithromycin and prednisone are OK in 
pregnancy, as well as nifedipine. Vitals on transfer were 98.4 
107 112/63 16 98% RA.  

 
Past Medical History:
Hypertension  
G3P1A1 (currently 6 weeks pregnant) - gestational DM, 
preeclampsia  
TCP  
Intermittent asthma (albuterol prn)  

 
Social History:
Stopped smoking a few weeks ago but before then has been smoking 
___ cigarettes for ___ years. no EtOH, works at ___. Engaged with 
17 month old daughter. 
 
Physical Exam:
Vitals: T: 97.6 119/69 94 18 100/RA  
GEN: Alert, oriented to name, place and situation. Fatigued 
appearing but comfortable, no acute signs of distress.    
Neck: Supple, no JVD, no thyromegaly.  
Lymph nodes: No cervical, supraclavicular or axillary LAD.  
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops. 1+ 
edema to the midshins bilaterally  
RESP: Mild expiratory wheezes throughout posterior lung fields  
ABD: Soft, non-tender, non-distended, + bowel sounds.  
EXTR: No lower leg edema, no clubbing or cyanosis  
DERM: No active rash.  
Neuro: Left facial droop and eye lid droop
PSYCH: Appropriate and calm.  

 
Pertinent Results:
Admission labs:

___ 05:50PM URINE Color-Yellow Appear-Clear Sp ___
___ 05:50PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 05:50PM URINE RBC-1 WBC-1 Bacteri-FEW Yeast-NONE Epi-3
___ 05:50PM URINE UCG-POSITIVE

Studies:

CXR ___
IMPRESSION:  No acute cardiopulmonary process.

Vaginal ultrasound ___

Transabdominal and transvaginal exams were performed, the latter 
to better assess the endometrium and adnexal structures.  There 
is an intrauterine gestational sac with yolk sac and with 
embryonic pole measuring 5 mm.  This corresponds to a 
gestational age of 6 weeks 2 days.  Gestational age by dates is 
6 weeks 2 days.  Embryonic heart rate was detected measuring 178 
BPM. The ovaries are not visualized.  No adnexal mass is seen.  
No pelvic free 
fluid is seen. 
  
IMPRESSION: 
  
Single live intrauterine gestation, size equals dates. 

 
Brief Hospital Course:
___ y/o G3P1A1 female currently 6 weeks pregnant with past 
medical history of asthma and hypertension here with as asthma 
exacerbation
 
# Acute asthma exacerbation: History of smoking likely 
precipicated by viral prodrome. She never required supplemental 
oxygenation. Treatment course of albuterol, azithromycin, and 
prednisone was continued with symptomatic improvement.
 
# Pregnancy: LMP in mid ___ with live intrauterine 
gestation by ultrasound. Will follow up with outpatient OB/GYN. 
Also discharged with prenatal vitamins

# HTN: Continued Nifedipine 30 mg daily

Transitional issues:
- Full code
- Steroid and antibiotic burst for asthma exacerbation
- Confirmed viable intrauterine preganancy   
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. NIFEdipine CR 30 mg PO DAILY 
2. Albuterol Inhaler 2 PUFF IH BID:PRN shortness of breath, 
wheeze 

 
Discharge Medications:
1. Azithromycin 500 mg PO Q24H 
RX *azithromycin 500 mg 1 tablet(s) by mouth once per day Disp 
#*3 Tablet Refills:*0
2. PredniSONE 40 mg PO DAILY 
RX *prednisone 20 mg 2 tablet(s) by mouth once per day Disp #*6 
Tablet Refills:*0
3. Prenatal Vitamins 1 TAB PO DAILY 
RX *PNV with ___ [Prenatal Plus (calcium carb)] 27 
mg iron-1 mg 1 tablet(s) by mouth once per day Disp #*30 Tablet 
Refills:*0
4. Albuterol Inhaler 2 PUFF IH BID:PRN shortness of breath, 
wheeze 
5. NIFEdipine CR 30 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Asthma exacerbation

 
Discharge Condition:
Mental Status: Clear and coherent.
Activity Status: Ambulatory - Independent.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Dear Ms. ___,

You came to the hospital because of difficulty breathing. This 
was due to asthma. You were treated with sterods, antibiotics, 
and nebulizers with improvement. Now you are ready to go home. 
Please note the new medications at discharge. 
 
Followup Instructions:
___